Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F w/ CAD s/p PCI, s/p pacer, DM, HTN p/w anxiety following 
a MVC. Pt was driving when she had a MVC. she was not hurt. no 
head trauma, no LOC. pt was obviously nervous after this 
episode. she denies any CP at that time or now. she says she 
felt out of breath for a minute but then it resolved. denies 
dizziness, palpitations, N/V/abd pain, F/C/C  
.  
In the ED, ekg was unchanged. first set of enzymes neg. she was 
admitted for ___ and a possible stress test  

 
Past Medical History:
-coronary artery disease:  
status post CABG in ___ and stenting of the RCA in ___  

___. At that time, her LIMA to LAD was found to be patent. She  

had an 80% LAD lesion, and a 100% D1 occlusion. The circumflex  
was moderately diseased, and the vein graft to the diagonal and  

OM was occluded. The RCA had serial 80% lesions and the vein  
graft to the PDA was occluded. At that time, she had 3 stents  
placed in the RCA.  
-hypertension  
-hypercholesterolemia  
-NIDDM  
-prior CVA without residual deficit  
-glaucoma  
-arthritis  
-history of heart block and dual chamber pacemaker placement in 
___  

 
Social History:
___
Family History:
remarkable for a son who also has diabetes and  
history of an MI.  

 
Physical Exam:
98.9 60 120/60 14 99/RA  
Gen: NAD  
Heent: no LAD, no jVD  
Chest: CTABL  
Heart: RRR, no m/r/g, nl s1 s2  
abd: soft, NT, ND, no HSM, BS +  
Extr: no edema  

 
Pertinent Results:
___ 07:15AM BLOOD WBC-8.1 RBC-4.43 Hgb-12.9 Hct-38.0 MCV-86 
MCH-29.0 MCHC-33.9 RDW-13.8 Plt ___
___ 07:15AM BLOOD Glucose-169* UreaN-29* Creat-1.1 Na-136 
K-4.2 Cl-101 HCO3-26 AnGap-13
___ 07:15AM BLOOD CK(CPK)-64
___ 09:55PM BLOOD CK(CPK)-65
___ 01:10PM BLOOD CK(CPK)-71
___ 07:15AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 09:55PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 01:10PM BLOOD cTropnT-<0.01
.
CXR
No acute cardiopulmonary process
 
Brief Hospital Course:
___ yo F w/ CAD s/p PCI, s/p pacer, DM, HTN p/w anxiety following 
a ___  
.  
#CP: pt denied having any CP during the ___. she said what she 
had was more of an episode of anxiety from the ___. denied SOB, 
N/V. 3 sets of cardiac enzymes were negative. she was continued 
on home aspirin, atenolol and statin  
.  
#CAD: continued ASA, atenolol, statin  
.  
#HTN: continued atenolol, plendil  
.  
#DM: continued glyburide, metformin  
.  
#Hyperlipidemia: continued statin  
.  
#FEN: cardiac diet  
.  
#PPX: heparin sc  
.  

 
Medications on Admission:
Plendil 10 mg daily  
aspirin 325 mg once daily  
atenolol 100 mg once daily  
glyburide 5 mg once daily  
metformin 500 mg once daily  
Lipitor 40 mg once daily  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Felodipine 2.5 mg Tablet Sustained Release 24 hr Sig: Four 
(4) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. Glyburide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Metformin 500 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please take all medications as prescribed
.
If you have chest pain, shortness of breath, dizziness, 
palpitations, nausea, vomitting, diarrhea, pan in stomach please 
call your primary care doctor or go to the emergency room
 
Followup Instructions:
___